US06303347B1
In the same manner as described in Example 2-(5), L-serine benzyl ester (390 mg, 2.0 mmol) was acylated with (R)-3-octanoyloxytetradecanoic acid (815 mg, 2.2 mmol) in the presence of EDC·MeI (745 mg, 2.5 mmol) in CH2Cl2 to afford 1.02 g (93%) of N-[(R)-3-octanoyloxytetradecanoyl]-L-serine benzyl ester: mp 50-51° C.; 1H NMR (CDCl3) δ 0.88 (t, 6H, J=6.8 Hz), 1.1-1.7 (m, 30H), 2.30 (t, 2 H, J=7.7 Hz), 2.51 (d, 2H, J=5.8 Hz), 2.60 (t, 1H, J=6.0 Hz), 3.97 (m, 2H), 4.65 (m, 1H), 5.22 (m, 3H), 6.61 (d, 1H, J=6.9 Hz), 7.35 (br s, 5H).

reactant | L-serine benzyl ester | 2.0 mmol, 390 mg | C(C1=CC=CC=C1)OC([C@@H](N)CO)=O | C10H13NO3
reactant | (R)-3-octanoyloxytetradecanoic acid | 2.2 mmol, 815 mg | C(CCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C22H42O4
reactant | EDC·MeI | 2.5 mmol, 745 mg | C(CCl)Cl.CI
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | N-[(R)-3-octanoyloxytetradecanoyl]-L-serine benzyl ester | 1.02 g, 93% | C(C1=CC=CC=C1)OC([C@@H](NC(C[C@@H](CCCCCCCCCCC)OC(CCCCCCC)=O)=O)CO)=O | C32H53NO6
